US07829585B2
C-(6-Phenoxy-benzofuran-2-yl)-methylamine
To an ethanol (5 mL) solution of 2-(6-phenoxy-benzofuran-2-ylmethyl)-isoindole-1,3-dione (209 mg, 566 μmol) described in Production Example 49-1-3 was added hydrazine hydrate (549 μL, 11.3 mmol) at room temperature, which was stirred for 1 hour while heating under reflux. Water was added to the reaction solution at room temperature followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (92 mg, 68%) as a colorless oil.

reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | 2-(6-phenoxy-benzofuran-2-ylmethyl)-isoindole-1,3-dione | 566 μmol, 209 mg | O(C1=CC=CC=C1)C1=CC2=C(C=C(O2)CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C23H15NO4
reactant | hydrazine hydrate | 11.3 mmol, 549 μL | O.NN
solvent | Water | O | H2O
product | C-(6-Phenoxy-benzofuran-2-yl)-methylamine | 92 mg, 68% | O(C1=CC=CC=C1)C1=CC2=C(C=C(O2)CN)C=C1 | C15H13NO2
